US03941782
C. 4,4-Dimethyl-9-[4-(thiomorpholino)butyryloxy]-7-(3-methyl-2-octyl)-1,2,3,4-tetrahydrocyclopenta[ c][1]benzopyran hydrochloride
A mixture of 1.5 g. (4.4 mmole) of 4,4-dimethyl-9-hydroxy-7-(3-methyl-2-octyl)-1,2,3,4-tetrahydrocyclopenta[ c][1]benzopyran, 0.99 g. (4.4 mmole) of γ-thiomorpholinobutyric acid hydrochloride, and 0.99 g. (4.8 mmole) of dicyclohexylcarbodiimide in 125 ml. of methylene chloride was stirred and heated at reflux for 16 hours. The reaction mixture was cooled and the byproduct of dicyclohexylurea was removed by suction filtration. The solvents were evaporated to give a residue which crystallized from a mixture of 10 ml. chloroform/40 ml. diethyl ether to give 0.85 g. (35%) of the desired product as a beige solid, m.p. 167°-171°C. The material was pure by thin layer chromatography, and the infrared and nuclear magnetic resonance spectra were in agreement with the proposed structure.

reactant | 4,4-dimethyl-9-hydroxy-7-(3-methyl-2-octyl)-1,2,3,4-tetrahydrocyclopenta[ c][1]benzopyran | 4.4 mmole | CC1(OC2=C(C3=C1CCC3)C(=CC(=C2)C(C)C(CCCCC)C)O)C | C23H34O2
reactant | γ-thiomorpholinobutyric acid hydrochloride | 4.4 mmole | Cl.S1CCN(CC1)CCCC(=O)O
reactant | dicyclohexylcarbodiimide | 4.8 mmole | C1(CCCCC1)N=C=NC1CCCCC1 | C13H22N2
solvent | methylene chloride | C(Cl)Cl | CH2Cl2
product | 4,4-Dimethyl-9-[4-(thiomorpholino)butyryloxy]-7-(3-methyl-2-octyl)-1,2,3,4-tetrahydrocyclopenta[ c][1]benzopyran hydrochloride | 35% | Cl.CC1(OC2=C(C3=C1CCC3)C(=CC(=C2)C(C)C(CCCCC)C)OC(CCCN2CCSCC2)=O)C | InChI=1S/C31H47NO3S.ClH/c1-6-7-8-11-22(2)23(3)24-20-27(34-29(33)14-10-15-32-16-18-36-19-17-32)30-25-12-9-13-26(25)31(4,5)35-28(30)21-24;/h20-23H,6-19H2,1-5H3;1H
